US04068082
Bis-phenol-A-bis(2-methacrylatoethyl) ether
45 g. of methacryl chloride is slowly added to a mixture of 66.2 g. of 2,2-bis[4-(2-hydroxyethoxy)phenyl]-propane, 41 g. of triethylamine and 300 ml. of dry acetone. The temperature is maintained below 32° C with cooling. The resulting amine hydrochloride is filtered off and washed with acetone. The acetone solution is added to 500 ml. of ice and water, the oily layer recovered and washed with sodium bicarbonate, followed by water, and dried at 40° C. in a vacuum with a stream of air passing through the liquid. The infrared spectrum of the product contains only a very small band indicating hydroxyl hydrogens, a large ester carbonyl band, and a carbon double bond band.

reactant | methacryl chloride | CC(=C)C(=O)Cl | C4H5ClO
reactant | 2,2-bis[4-(2-hydroxyethoxy)phenyl]-propane | OCCOC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCCO | C19H24O4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | Bis-phenol-A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
